US06228877B1
3-(6-Azido-1-methyl-1H-indol-3-yl)-4-(6-methoxy-1-methyl-1H-indol-3-yl)-pyrrole-2,5,-dione was prepared from (6-azido-1-methyl-1H-indol-3-yl)-oxo-acetyl chloride and 2-(6-methoxy-1-methyl-1H-indol-3-yl)-acetimidic acid isopropyl ester hydrochloride.

reactant | (6-azido-1-methyl-1H-indol-3-yl)-oxo-acetyl chloride | N(=[N+]=[N-])C1=CC=C2C(=CN(C2=C1)C)C(C(=O)Cl)=O | C11H7ClN4O2
reactant | 2-(6-methoxy-1-methyl-1H-indol-3-yl)-acetimidic acid isopropyl ester hydrochloride | Cl.C(C)(C)OC(CC1=CN(C2=CC(=CC=C12)OC)C)=N
product | 3-(6-Azido-1-methyl-1H-indol-3-yl)-4-(6-methoxy-1-methyl-1H-indol-3-yl)-pyrrole-2,5,-dione | N(=[N+]=[N-])C1=CC=C2C(=CN(C2=C1)C)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)OC)C)=O)=O | C23H18N6O3
